US04123537
A solution of iodine monochloride (2.68 g., 0.02 mole) in 4N hydrochloric acid (15 ml.) is added to a solution of 4-aminomethyl-6-(1,1-dimethylethyl)-3-pyridinol . dihydrochloride (5.06 g., 0.02 mole) in water (30 ml.). The resulting solution is kept at 20°-25° C. for 18 hours, diluted with water to a volume of 100 ml. and basicified with concentrated ammonium hydroxide (12 ml.) whereupon a solid is deposited. The solid is collected, washed with water and air-dried to give 2-iodo-4-aminomethyl-6-(1,1-dimethylethyl)-3-pyridinol (4.8g., 78%), m.p. 162°-165° C. Recrystallization of the latter from 50% ethanol provides an analytical sample of 2-iodo-4-aminomethyl-6-(1,1-dimethylethyl)-3-pyridinol as pale beige crystals, m.p. 170°-171° C.

reactant | iodine monochloride | 0.02 mole, 2.68 g | ICl | ClI
reactant | 4-aminomethyl-6-(1,1-dimethylethyl)-3-pyridinol . dihydrochloride | 0.02 mole, 5.06 g | Cl.Cl.NCC1=C(C=NC(=C1)C(C)(C)C)O
reactant | ammonium hydroxide | 12 ml | [OH-].[NH4+]
solvent | hydrochloric acid | 4N, 15 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
product | 2-iodo-4-aminomethyl-6-(1,1-dimethylethyl)-3-pyridinol | 4.8g, 78% | IC1=NC(=CC(=C1O)CN)C(C)(C)C | C10H15IN2O
